US08492414B2
Ethyl 3-(2-(benzyloxy)-4-chlorophenyl)-1,2,4-thiadiazole-5-carboxylate (VII)
To a solution of 5-(2-(benzyloxy)-4-chlorophenyl)-1,3,4-oxathiazol-2-one (0.15 g, 0.47 mmol) in 1,2-dichlorobenzene (1 ml) was added ethyl cyanoformate (185 μL, 1.88 mmol). The resulting reaction mixture was refluxed for 3 h at 150° C. After the completion of the reaction (TLC monitoring), the reaction mass was as such (direct loading) purified through flash chromatography (100-200 M silica, 2% EtOAc-Hexane) to get the desired product (0.02 g, 12%). MS: 375.18 (M+H)+.

reactant | 5-(2-(benzyloxy)-4-chlorophenyl)-1,3,4-oxathiazol-2-one | 0.47 mmol, 0.15 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Cl)C1=NSC(O1)=O | C15H10ClNO3S
reactant | ethyl cyanoformate | 1.88 mmol, 185 μL | C(#N)C(=O)OCC | C4H5NO2
solvent | 1,2-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethyl 3-(2-(benzyloxy)-4-chlorophenyl)-1,2,4-thiadiazole-5-carboxylate | 0.02 g, 12% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Cl)C1=NSC(=N1)C(=O)OCC | C18H15ClN2O3S
